Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Biliary pancreatitis
 
Major Surgical or Invasive Procedure:
___: Laparoscopic cholecystectomy

 
History of Present Illness:
Mr. ___ is a ___ man who had severe biliary 
pancreatitis resulting in pancreatic necrosis for which he was 
treated with nasojejunal feedings and pancreatic rest.  He had 
initially had multisystem organ failure, which improved. Mr. 
___ has a large postnecrotic pseudocyst, which has been 
drained through a minimally invasive approach into his GI tract. 
 He has some debris, but this is not currently infected. The 
patient was followed by Dr. ___ in his ___ 
clinic to discuss cholecystectomy. After discussion of all 
risks, benefits and possible outcomes, patient was scheduled for 
elective cholecystectomy on ___.
 
Past Medical History:
Hiatal Hernia  
___ esophagus  
Esophageal ulcer  
anxiety  
Back pain 
 
Social History:
___
Family History:
Mother passed of metastatic lung cancer. Father alive, had CVA 
and MI.  No  history of pancreatic malignancy  

 
Physical Exam:
Prior Discharge:
VS: 98.3, 83, 137/69, 16, 98% RA
GEN: NAD, AAO x 3
CV: RRR
PULM: CTAB
ABD: Laparoscopic incisions open to air with dermabond and c/d/i
EXTR: Warm, +pp, no c/c/e
 
Pertinent Results:
Pathology: Pending
 
Brief Hospital Course:
The patient with history of gallstone pancreatitis was admitted 
to the HPB Surgical Service on ___ after he underwent 
laparoscopic cholecystectomy. After a brief, uneventful stay in 
the PACU, the patient arrived on the floor tolerating regular 
diet , on IV fluids, and Dilaudid PCA for pain control.  The 
patient was hemodynamically stable.
Pain was well controlled. Diet was tolerated well. The patient 
voided without problem. The patient received subcutaneous 
heparin and venodyne boots were used during this stay.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.

 
Medications on Admission:
alprazolam 1", oxycodone 7.5mg prn, protonix 40'
 
Discharge Medications:
1. ALPRAZolam 1 mg PO BID 
2. Docusate Sodium 100 mg PO BID 
3. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth Q3H 
Disp #*120 Tablet Refills:*0
4. Pantoprazole 40 mg PO Q24H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Biliary pancreatitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the surgery service at ___ for surgical 
resection of your gallbladder. You have done well in the post 
operative period and are now safe to return home to complete 
your recovery with the following instructions:
.
Call Dr. ___ office at ___ if you have any 
questions or concerns. During off hours: call Operator at 
___ and ask to ___ team.
.
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.

 
Followup Instructions:
___